US06562811B1
A mixture of 2-{[6-[2-(benzyloxy)phenyl]-3-cyano-4-(methylsulfinyl)-2-pyridinyl]oxy}acetamide (300 mg, 0.71 mmol) and morpholine (1.0 mL) was stirred at 130° C. for 1 hr, and then water was added. The resulting precipitates were collected by filtration and dried under reduced pressure to give 2-{[6-[2-(benzyl-oxy)phenyl]-3-cyano-4-(4-morpholinyl)-2-pyridinyl]oxy}acetamide as a yellow solid (304 mg, yield; 96%).

reactant | 2-{[6-[2-(benzyloxy)phenyl]-3-cyano-4-(methylsulfinyl)-2-pyridinyl]oxy}acetamide | 0.71 mmol, 300 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=CC(=C(C(=N1)OCC(=O)N)C#N)S(=O)C | C22H19N3O4S
reactant | morpholine | 1.0 mL | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | 2-{[6-[2-(benzyl-oxy)phenyl]-3-cyano-4-(4-morpholinyl)-2-pyridinyl]oxy}acetamide | 304 mg, yield; 96% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=CC(=C(C(=N1)OCC(=O)N)C#N)N1CCOCC1 | C25H24N4O4
